US05470856
1,6-Dihydro-5(4H)-pyrimidinone O-methyloxime monohydrochloride
1,3-Diaminoacetone dihydrochloride monohydrate (2.61 g, 14.6 mmol) was dissolved in refluxing methanol. To this solution o-methylhydroxylamine hydrochloride (2.43 g, 29.2 mmol) was added. After reflexing for 48 hours the solvents were evaporated. The crude product was dissolved in methanol and an excess of trimethylorthoformate was added to the reaction mixture which was heated to reflux. After 24 hours the solvent was removed in vacuo. crystallization from methanol/ethyl acetate afforded 850 mg (36%) of a light-brown crystalline material. Mp. 170.7° C.

reactant | 1,3-Diaminoacetone dihydrochloride monohydrate | 14.6 mmol, 2.61 g | O.Cl.Cl.NCC(=O)CN
reactant | o-methylhydroxylamine hydrochloride | 29.2 mmol, 2.43 g | CO[NH3+].[Cl-]
reactant | methanol | CO | CH4O
product | 1,6-Dihydro-5(4H)-pyrimidinone O-methyloxime monohydrochloride | 850 mg, 36% | Cl.CON=C1CN=CNC1 | InChI=1S/C5H9N3O.ClH/c1-9-8-5-2-6-4-7-3-5;/h4H,2-3H2,1H3,(H,6,7);1H
